US07291635B2
HOBt (19 mg, 0.125 mmol), (S)-2-acetylamino-3-phenyl-propionic acid (26 mg, 0.125 mmol) and EDCl (26 mg, 0.138 mmol) are added to a solution of the title G compound, (S)-2-amino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-N-pentylpropionamide (63 mg, 0.125 mmol) in CH2Cl2 (4 mL) at RT. After 30 min, the reaction is concentrated. The product is taken up in EtOAc, washed with 1N aqueous HCl, saturated aqueous NaHCO3 and brine. The organic solution is dried over anhydrous MgSO4 and concentrated to yield (S)-2-((S)-2-acetylamino-3-phenyl-propionylamino)-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-N-pentyl-propionamide as a white foam: [M+1]+=692.

reactant | HOBt | 0.125 mmol, 19 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-acetylamino-3-phenyl-propionic acid | 0.125 mmol, 26 mg | C(C)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C11H13NO3
reactant | EDCl | 0.138 mmol, 26 mg | CCN=C=NCCCN(C)C.Cl
reactant | (S)-2-amino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-N-pentylpropionamide | 0.125 mmol, 63 mg | N[C@H](C(=O)NCCCCC)CC1=CC(=CC=C1)CN1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C25H34N4O5S
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-((S)-2-acetylamino-3-phenyl-propionylamino)-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-phenyl}-N-pentyl-propionamide | C(C)(=O)N[C@H](C(=O)N[C@H](C(=O)NCCCCC)CC1=CC(=CC=C1)CN1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)CC1=CC=CC=C1 | C36H45N5O7S
